US06759554B2
4-(N-Hexyl)aminobenzonitrile (FIG. 10, Entry 8)
Using the general procedure, 4-bromobenzonitrile (182 mg, 1.0 mmol) was coupled with n-hexylamine (198 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (6:1) as eluent afforded the desired product as a light yellow solid (145 mg, 72% yield). Rf=0.6 (hexane/ethyl acetate=3:1).

reactant | 4-bromobenzonitrile | 1.0 mmol, 182 mg | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | n-hexylamine | 1.5 mmol, 198 μL | C(CCCCC)N | C6H15N
product | 4-(N-Hexyl)aminobenzonitrile | 145 mg, 72% yield | C(CCCCC)NC1=CC=C(C#N)C=C1 | C13H18N2
